US05521170
A mixture of 1-(6-chlorohexyl)-5-(4-nitrobenzoyl) -1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (675 mg) and potassium phthalimido (291 mg) in N,N-dimethylformamide (15 ml) was stirred at ambient temperature for 8 hours. The mixture was diluted with ethyl acetate and washed successively with 1N hydrochloric acid, aqueous sodium hydrogen carbonate and brine, and dried over magnesium sulfate. The solvent was evaporated in vacuo to give 5-(4-nitrobenzoyl)-1-(6-phthalimidohexyl) -1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (758 mg).

reactant | 1-(6-chlorohexyl)-5-(4-nitrobenzoyl) -1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 675 mg | ClCCCCCCN1C(CCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)=O | C22H24ClN3O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 5-(4-nitrobenzoyl)-1-(6-phthalimidohexyl) -1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 758 mg | [N+](=O)([O-])C1=CC=C(C(=O)N2CCC(N(C3=C2C=CC=C3)CCCCCCN3C(C=2C(C3=O)=CC=CC2)=O)=O)C=C1 | C30H28N4O6
